* csro_dac: I(code) into Vd=0.6
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.option temp=27
.option seed=1184
.include /work/analog/out/blocks/blocks.spice
Vdd VPWR 0 1.2
Vd vbp 0 0.6
Vsw sw 0 dc 0
Bc0 code[0] 0 V = 1.2*(floor(V(sw)/1) - 2*floor(V(sw)/2))
Bc1 code[1] 0 V = 1.2*(floor(V(sw)/2) - 2*floor(V(sw)/4))
Bc2 code[2] 0 V = 1.2*(floor(V(sw)/4) - 2*floor(V(sw)/8))
Bc3 code[3] 0 V = 1.2*(floor(V(sw)/8) - 2*floor(V(sw)/16))
Bc4 code[4] 0 V = 1.2*(floor(V(sw)/16) - 2*floor(V(sw)/32))
Bc5 code[5] 0 V = 1.2*(floor(V(sw)/32) - 2*floor(V(sw)/64))
Bc6 code[6] 0 V = 1.2*(floor(V(sw)/64) - 2*floor(V(sw)/128))
Bc7 code[7] 0 V = 1.2*(floor(V(sw)/128) - 2*floor(V(sw)/256))
Xdac code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] vbp VPWR 0 csro_dac
.control
dc Vsw 0 255 1
let iout = -i(Vd)
wrdata iout.txt iout
.endc
.end
